US08183289B2
Ethyl 2-(6-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3′-(methylsulfonyl)biphenyl-3-yl)acetate (80 mg, 0.135 mmol) was diluted with dioxane (1 mL) followed by the addition of NaOH (0.270 ml, 1.35 mmol) and 300 μL of water. After stirring for 2 hours, the reaction was diluted with ethyl acetate and 2N HCl. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated. The material was purified using a biotage 12i cartridge eluting with 1-4% methanol/DCM to yield 2-(6-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3′-(methylsulfonyl)biphenyl-3-yl)acetic acid (5 mg, 6.56% yield). 1H NMR (400 MHz, CD3Cl3, CD3OD) 8.05 (s, 1H), 7.81 (d, 1H), 7.78 (d, 1H), 7.50-7.60 (m, 3H), 7.42 (s, 1H), 7.38 (d, 1H), 7.25 (d, 2H), 7.19 (d, 2H), 7.05 (d, 1H), 6.85 (d, 1H), 3.75 (s, 2H), 3.62 (q, 2H), 3.0 (s, 3H), 2.90 (t, 2H).

reactant | Ethyl 2-(6-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3′-(methylsulfonyl)biphenyl-3-yl)acetate | 0.135 mmol, 80 mg | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=CC=C(C=C3C3=CC(=CC=C3)S(=O)(=O)C)CC(=O)OCC)C=C2)C=C1 | C32H30ClNO6S
reactant | NaOH | 1.35 mmol, 0.270 ml | [OH-].[Na+]
reactant | water | 300 μL | O | H2O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 2N | Cl | ClH
product | 2-(6-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3′-(methylsulfonyl)biphenyl-3-yl)acetic acid | 5 mg, 6.56% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=CC=C(C=C3C3=CC(=CC=C3)S(=O)(=O)C)CC(=O)O)C=C2)C=C1 | C30H26ClNO6S
